US06599890B1
To a stirred solution of 4-hydroxybenzenesulfonic acid sodium salt dihydrate (5.13 g, 22.1 mmol) in 23 mL of 1 N sodium hydroxide was added a solution of 4-fluorobenzyl bromide (3.3 mL, 26.5 mmol) in 20 mL of ethanol. The mixture was heated at reflux for two days, then cooled to ambient temperature (22° C.), whereupon a white precipitate formed. The flaky white solids were collected by filtration, rinsed with ethyl acetate and diethyl ether, and dried to give 4.95 g of 4-(4-fluoro-benzyloxy)-benzenesulfonic acid sodium salt. A stirred solution of 4-(4-fluoro-benzyloxy)-benzenesulfonic acid sodium salt (13.0 g, 42.7 mmol) in 50 mL of thionyl chloride and two drops of dimethylformamide was heated at a gentle reflux for 8 hours. The mixture was concentrated to a yellow solid which was suspended in ethyl acetate and filtered. The filtrate was concentrated to 11.2 g of 4-(4-fluorobenzyloxy)benzenesulfonyl chloride as a light yellow solid: 1H NMR (400 MHz, CDCl3) δ 7.95-7.98 (m, 2 H), 7.38-7.41 (m, 2 H), 7.06-7.12 (m, 4 H), 5.12 (s, 2 H).

reactant | 4-hydroxybenzenesulfonic acid sodium salt dihydrate | 22.1 mmol, 5.13 g | O.O.[Na+].OC1=CC=C(C=C1)S(=O)(=O)[O-]
reactant | 4-fluorobenzyl bromide | 26.5 mmol, 3.3 mL | FC1=CC=C(CBr)C=C1 | C7H6BrF
solvent | sodium hydroxide | 1 N, 23 mL | [OH-].[Na+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 4-(4-fluoro-benzyloxy)-benzenesulfonic acid sodium salt | 4.95 g | [Na+].FC1=CC=C(COC2=CC=C(C=C2)S(=O)(=O)[O-])C=C1 | InChI=1S/C13H11FO4S.Na/c14-11-3-1-10(2-4-11)9-18-12-5-7-13(8-6-12)19(15,16)17;/h1-8H,9H2,(H,15,16,17);/q;+1/p-1
